US05545735
Step A: t-Butyl (2S,3R,5R)-5-(2-cyanobenzyl)-6-oxo-2,3-diphenyl-4-morpholine carboxylate
To a stirred solution of 9.68 g (27.4 mmol) of t-butyl (2S,3R)-(+)-6-oxo-2,3-diphenyl-4-morpholine carboxylate (Aldrich Chemical Company) and 5.91 g (30.1 mmol, 1.1 eq) of α-bromo-o-tolunitrile in 140 mL of tetrahydrofuran at -78° C. was added dropwise 28.8 mL of a 1.0M THF solution of sodium hexamethyldisilazide (28.8 mmol) over 15 min. The mixture was stirred at -78° C. for 3 h, then quenched with saturated aqueous ammonium chloride, extracted with ethyl acetate (5×150 mL) and the combined organic extracts washed with water, saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated under reduced pressure. Chromatography on silica gel (elution with 20% ethyl acetate-hexanes) gave the product as a white solid (8.01 g, 63%). 1H NMR indicates this compound exists as an approximately 5:1 mixture of rotamers. 1H NMR (400 MHz, CDCl3): major rotamer--δ0.92 (s, 9H), 3.52 (dd; 10, 14 Hz; 1H), 3.62 (dd; 5, 14 Hz; 1H), 5.08 (d, 3 Hz, 1H), 5.40 (dd; 5, 10 Hz; 1H); 5.79 (d, 3 Hz, 1H), 6.52 (d, 8 Hz, 2H), 6.92 (d, 8 Hz, 2H), 7.00-7.70 (m, 1 OH). FAB-MS: calculated for C29H28N2O4 468; found 469 (M+H,30%), 369 (M-BOC, 100%).

reactant | t-butyl (2S,3R)-(+)-6-oxo-2,3-diphenyl-4-morpholine carboxylate | 27.4 mmol, 9.68 g | O=C1O[C@H]([C@H](N(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO4
reactant | α-bromo-o-tolunitrile | 30.1 mmol, 5.91 g, 1.1 eq | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | sodium hexamethyldisilazide | 28.8 mmol | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | THF | 1.0M | C1CCOC1 | C4H8O
product | t-Butyl (2S,3R,5R)-5-(2-cyanobenzyl)-6-oxo-2,3-diphenyl-4-morpholine carboxylate | 8.01 g, 63% | C(#N)C1=C(C[C@@H]2C(O[C@H]([C@H](N2C(=O)OC(C)(C)C)C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC=C1 | C29H28N2O4
